US08309739B2
(7-Chloro-1,2,3,4-tetrahydro-naphthalen-1-yl)-(4,5-dihydro-thiazol-2-yl)-amine
Titanium isopropoxide (710 mg, 0.74 mls, 2.5 mmol) is added to a mixture of 7-chloro-1-tetralone (360 mg, 2 mmol) and 2-aminothiazoline (224 mg, 2.2 mmol). The reaction mixture is stirred for 16 hours at room temperature, then diluted with dry methanol (5 ml). Excess sodium borohydride is added carefully portionwise over a period of 45 minutes. The reaction mixture is stirred for a further 2 hours, then added to a saturated aqueous solution of Rochelle's salt and extracted with dichloromethane (2×25 mls). The organic phases are combined, washed sequentially with water and saturated brine, then filtered through a pad of magnesium sulphate. The filtrate is concentrated under reduced pressure to give the crude product as a pale yellow gum. The crude product is purified by column chromatography on silica, eluting with ethyl acetate to give the title compound as a white solid Mp 164-6° C. Nmr data: (CDCl3): 7.39 (1H, s, CH), 7.13 (1H, dd, CH), 7.01 (1H, s, CH), 4.90 (1H, m, CH), 4.06 (2H, m), 3.37 (2H, m), 2.72 (2H, m), 2.08 (1H, m), 1.85 (3H, m)

reactant | 7-chloro-1-tetralone | 2 mmol, 360 mg | ClC1=CC=C2CCCC(C2=C1)=O | C10H9ClO
reactant | 2-aminothiazoline | 2.2 mmol, 224 mg | NC=1SCCN1 | C3H6N2S
reactant | sodium borohydride | [BH4-].[Na+]
reactant | Rochelle's salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | methanol | 5 ml | CO | CH4O
catalyst | Titanium isopropoxide | 2.5 mmol, 0.74 mls, 710 mg | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (7-Chloro-1,2,3,4-tetrahydro-naphthalen-1-yl)-(4,5-dihydro-thiazol-2-yl)-amine | ClC1=CC=C2CCCC(C2=C1)NC=1SCCN1 | C13H15ClN2S
